US04077982
A. preparation of 2-(2-Fluorophenyl)-5-hydroxy-1,3-dioxane
A mixture of 2-fluorobenzaldehyde (24.8 g, 0.2, mole), glycerol (18.4 g, 0.2 mole) and 40% sulfuric acid (2 ml) was heated at 80°-100° C for 12 hours. The mixture cooled to room temperature and 100 ml of ether was added. The solution was washed with 2% potassium carbonate solution, dried over magnesium sulfate and concentrated under reduced pressure. The oil which remained (28.7 g) was distilled under 1 × 10-5 mm to give a product (18 g) which distilled at a pot temperature of 140°-145° C. This product was identified by infrared and elemental analysis as 5-hydroxy-2-(2-fluorophenyl)-1,3-dioxane.

reactant | 2-fluorobenzaldehyde | 24.8 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | glycerol | 0.2 mole, 18.4 g | OCC(O)CO | C3H8O3
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-(2-Fluorophenyl)-5-hydroxy-1,3-dioxane | 18 g | FC1=C(C=CC=C1)C1OCC(CO1)O | C10H11FO3
